US07514419B2
To a stirring solution of 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxymethoxymethylbenzyl)phenol (1.00 g, 3.18 mmol, Chiellini et al., Bioorg. Med. Chem. Lett. 10:2607 (2000)) in DMF (30.0 mL) was added Cs2CO3 (5.18 g, 15.90 mmol) followed by 1,2-dibromoethane (1.64 g, 19.08 mmol). The reaction mixture was stirred at 60° C. for 2 d, diluted with ethyl acetate and washed with water (20 mL×4) and brine. The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (1:19) to afford 1-(2-bromoethoxy)-4-(3′-iso-propyl-4′-methoxymethoxybenzyl)-3,5-dimethylbenzene as an oil (0.26 g, 16%): 1H NMR (300 MHz, CDCl3): δ 6.94 (m, 2H), 6.67 (m, 3H), 5.18 (s, 2H), 4.32 (m, 2H), 3.95 (s, 2H), 3.68 (m, 2H), 3.51 (s, 3H), 3.37 (s, 3H), 3.32 (m, 1H), 2.26 (s, 6H), 1.22 (d, J=6.0 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=hexanes-ethyl acetate (4:1); Rf=0.91.

reactant | 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxymethoxymethylbenzyl)phenol | 3.18 mmol, 1.00 g | CC=1C=C(C=C(C1CC1=CC(=C(C=C1)COCOC)C(C)C)C)O | C21H28O3
reactant | Cs2CO3 | 15.90 mmol, 5.18 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,2-dibromoethane | 19.08 mmol, 1.64 g | BrCCBr | C2H4Br2
reactant | DMF | 30.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-bromoethoxy)-4-(3′-iso-propyl-4′-methoxymethoxybenzyl)-3,5-dimethylbenzene | 0.26 g, 16% | BrCCOC1=CC(=C(C(=C1)C)CC1=CC(=C(C=C1)OCOC)C(C)C)C | C22H29BrO3
